US05998433
c) Synthesis of 1-(2-dimethylaminomethyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)-3-(3-phenethylphenyl)propan-1-one hydrochloride
1-(2-Dimethylaminomethyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)-3-(3-phenethylphenyl)propan-1-one 0.237 g was dissolved in 2 ml of methanol; hydrogen chloride in methanol was added in excess, followed by stirring. After this mixture was concentrated, diethyl ether was added; the resulting solid was filtered and washed with diethyl ether to yield the desired product.

reactant | 1-(2-Dimethylaminomethyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)-3-(3-phenethylphenyl)propan-1-one | 0.237 g | CN(C)CC1=CC2=C(CN(CC2)C(CCC2=CC(=CC=C2)CCC2=CC=CC=C2)=O)O1 | C27H32N2O2
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | 1-(2-dimethylaminomethyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)-3-(3-phenethylphenyl)propan-1-one hydrochloride | Cl.CN(C)CC1=CC2=C(CN(CC2)C(CCC2=CC(=CC=C2)CCC2=CC=CC=C2)=O)O1 | InChI=1S/C27H32N2O2.ClH/c1-28(2)19-25-18-24-15-16-29(20-26(24)31-25)27(30)14-13-23-10-6-9-22(17-23)12-11-21-7-4-3-5-8-21;/h3-10,17-18H,11-16,19-20H2,1-2H3;1H
